US04595767
In 140 ml of ethyl acetate, 5.595 g of 1-(2,3-epoxypropyloxy)-2-benzyloxy-3,4-dichlorobenzene is hydrogenated under atmospheric pressure using 1.65 g of 5% palladium on carbon (50% moisture) as catalyst (for 20 minutes, 625 ml of hydrogen gas is absorbed.). After the catalyst is filtered off, the filtrate is evaporated to give 4.3 g of 1-(2,3-epoxypropyloxy)-2-hydroxy-3,4-dichlorobenzene.

reactant | 1-(2,3-epoxypropyloxy)-2-benzyloxy-3,4-dichlorobenzene | 5.595 g | O1C(COC2=C(C(=C(C=C2)Cl)Cl)OCC2=CC=CC=C2)C1 | C16H14Cl2O3
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1.65 g | [Pd] | Pd
product | 1-(2,3-epoxypropyloxy)-2-hydroxy-3,4-dichlorobenzene | 4.3 g | O1C(COC2=C(C(=C(C=C2)Cl)Cl)O)C1 | C9H8Cl2O3
